US07553840B2
In a microwave vial, 4-chloro-6-[2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine (30 mg, 0.080 mmol), 4-borono-L-phenylalanine (21 mg, 0.098 mmol) and 1 ml of actonitrile, and 0.7 ml of water were mixed together. Then, 0.3 ml of 1N aqueous sodium carbonate was added to mixture, followed by 5 mole percent of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and then was purified by Prep-LC to give 6.7 mg of (S)-2-Amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(4-pyrimidin-4-yl-phenyl)-ethoxy]-pyrimidin-4-yl}-phenyl)-propionic acid. 1H NMR (400 MHz, CD3OD) δ (ppm) 8.82 (s, 2H), 8.26 (s, 2H), 8.02 (d, J=8 Hz, 2H), 7.97 (d, J=8.4 Hz, 2H), 7.86 (d, J=8.4 Hz, 2H), 7.45 (d, J=8 Hz 2H), 6.89 (q, J=6.8 Hz, 1H), 6.81 (d, J=2 Hz, 1H), 4.29 (t, J=1.6 Hz, 1H), 3.39 (m, 1H), 3.19 (m, 1H).

reactant | 4-chloro-6-[2,2,2-trifluoro-1-(4-pyridin-4-yl-phenyl)-ethoxy]-pyrimidin-2-ylamine | 0.080 mmol, 30 mg | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=CC=NC=C1)N | C17H12ClF3N4O
reactant | 4-borono-L-phenylalanine | 0.098 mmol, 21 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | actonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1N, 0.3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.7 ml | O | H2O
product | (S)-2-Amino-3-(4-{2-amino-6-[2,2,2-trifluoro-1-(4-pyrimidin-4-yl-phenyl)-ethoxy]-pyrimidin-4-yl}-phenyl)-propionic acid | 6.7 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=NC=NC=C1)N | C25H21F3N6O3
